US09107916B2
2-(3-cyclopropyl-5-hydroxy-1H-pyrazol-1-yl)isonicotinic acid
The title compound was prepared in 24% yield from 2-hydrazinylpyridine-4-carboxylic acid and ethyl 3-cyclopropyl-3-oxopropanoate according to the procedure for the preparation of Example 1. 1H NMR (400 MHz, CD3OD): δ 0.83-0.88 (2H, m), 1.05-1.09 (2H, m), 1.88-1.91 (1H, m), 4.86 (1H, s), 7.70 (1H, dd, J=5.2, 1.2 Hz), 8.54 (1H, d, J=5.2 Hz), 8.75 (1H, s). [M+H] Calc'd for C12H11N3O3, 246. Found, 246.

reactant | 2-hydrazinylpyridine-4-carboxylic acid | N(N)C1=NC=CC(=C1)C(=O)O | C6H7N3O2
reactant | ethyl 3-cyclopropyl-3-oxopropanoate | C1(CC1)C(CC(=O)OCC)=O | C8H12O3
product | 2-(3-cyclopropyl-5-hydroxy-1H-pyrazol-1-yl)isonicotinic acid | 24% yield | C1(CC1)C1=NN(C(=C1)O)C=1C=C(C(=O)O)C=CN1 | C12H11N3O3
